US05679746
4-(trans-4-(trans-4-(3-fluoropropyl)-4-silacyclohexyl)-4-silacyclohexyl)-1-n-propylbenzene
The above compound was obtained in the same manner as Example 23, using 4-(3-fluoropropyl)-4-silacyclohexylbromide and 4-(4-chloro-4-silacyclohexyl)-1-n-propylbenzene instead of 4-(4,4-difluorobutyl)-4-silacyclohexylbromide and 4-(4-chloro-4-silacyclohexyl)-1-trifluoromethoxybenzene, respectively.

reactant | 4-(3-fluoropropyl)-4-silacyclohexylbromide | FCCC[SiH]1CCC(CC1)Br | C8H16BrFSi
reactant | 4-(4-chloro-4-silacyclohexyl)-1-n-propylbenzene | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)CCC | C14H21ClSi
reactant | 4-(4-chloro-4-silacyclohexyl)-1-trifluoromethoxybenzene | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)OC(F)(F)F | C12H14ClF3OSi
product | 4-(trans-4-(trans-4-(3-fluoropropyl)-4-silacyclohexyl)-4-silacyclohexyl)-1-n-propylbenzene | FCCC[Si@@H]1CC[C@H](CC1)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CCC | C22H37FSi2
